US08859559B2
A mixture of 4-[(4-{[(tert-butoxy)carbonyl]amino}piperidin-1-yl)methyl]benzoic acid (Intermediate XIII.1; 3.00 g; 8.97 mmol), TBTU (3.20 mg; 9.97 mmol) and triethylamine (1.40 ml; 10.0 mmol) in DMF (50 ml) is stirred for 5 min. The amine 3-(2-aminoethyl)-pyridine (1.06 ml; 9.00 mmol) is added. After further 3 h stirring, the solvent is evaporated and the residue is taken up in DCM and washed with sodium carbonate solution. The organic layer is dried over sodium sulphate, filtered and evaporated. The residue is purified by silica gel column chromatography (gradient DCM/Methanol) to yield tert-Butyl N-[1-({4-[(2-(3-pyridyl)-ethylamino)carbonyl]phenyl}methyl)piperidin-4-yl]carbamate

reactant | 4-[(4-{[(tert-butoxy)carbonyl]amino}piperidin-1-yl)methyl]benzoic acid | 8.97 mmol, 3.00 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C18H26N2O4
reactant | TBTU | 9.97 mmol, 3.20 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 10.0 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-Butyl N-[1-({4-[(2-(3-pyridyl)-ethylamino)carbonyl]phenyl}methyl)piperidin-4-yl]carbamate | N1=CC(=CC=C1)CCNC(=O)C1=CC=C(C=C1)CN1CCC(CC1)NC(OC(C)(C)C)=O | C25H34N4O3
